US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-bromo-1-benzothiophene-2-carboxamide hydrochloride
133.7 mg (0.52 mmol) of 5-bromo-1-benzothiophene-2-carboxylic acid, 155.4 mg (0.78 mmol) of (R)-3-aminoquinuclidine dihydrochloride, 296.7 mg (0.78 mmol) of HATU, 369.8 mg (2.86 mmol) of N,N-diisopropylethylamine and 1.5 ml of DMF are reacted according to the general procedure (variant A). The reaction mixture is purified by preparative HPLC. The product is dissolved in acetonitrile, and an excess of 1N hydrochloric acid is added. The solvent is then removed. 175 mg (84% of theory) of the title compound are isolated.

reactant | 5-bromo-1-benzothiophene-2-carboxylic acid | 0.52 mmol, 133.7 mg | BrC=1C=CC2=C(C=C(S2)C(=O)O)C1 | C9H5BrO2S
reactant | (R)-3-aminoquinuclidine dihydrochloride | 0.78 mmol, 155.4 mg | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | HATU | 0.78 mmol, 296.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.86 mmol, 369.8 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-bromo-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)Br | InChI=1S/C16H17BrN2OS.ClH/c17-12-1-2-14-11(7-12)8-15(21-14)16(20)18-13-9-19-5-3-10(13)4-6-19;/h1-2,7-8,10,13H,3-6,9H2,(H,18,20);1H/t13-;/m0./s1
